US09359371B2
(3) Preparation: 4-((3-chloro-4-methoxybenzyl)amino)-2-(5H-pyrrolo[3,4-b]pyridin-6(7H)yl)-5-pyrimidine carboxylic acid
Methanol (30 mL) was added in ethyl 4-((3-chloro-4-methoxybenzyl)amino)-2-(5H-pyrrolo[3,4-b]pyridin-6 (7H)yl)-5-pyrimidine carboxylate (3.0 g, 6.82 mmol). Sodium hydrate (0.55 g, 13.6 mmol) was dissolved in water (10 mL) and added into the solution. The reaction was conducted in an oil bath of 50 to 60° C. overnight. LC-MS was used to monitor the reaction. The organic solvent was removed by rotary evaporation. The residual aqueous phase was adjusted to a pH of 3 to 4. Solid was precipitated, filtrated, and dried (1.0 g, 36.0% yield).

reactant | Methanol | 30 mL | CO | CH4O
reactant | ethyl 4-((3-chloro-4-methoxybenzyl)amino)-2-(5H-pyrrolo[3,4-b]pyridin-6 (7H)yl)-5-pyrimidine carboxylate | 6.82 mmol, 3.0 g | ClC=1C=C(CNC2=NC(=NC=C2C(=O)OCC)N2CC3=NC=CC=C3C2)C=CC1OC | C22H22ClN5O3
reactant | Sodium hydrate | 13.6 mmol, 0.55 g | O.[Na]
solvent | water | 10 mL | O | H2O
product | 4-((3-chloro-4-methoxybenzyl)amino)-2-(5H-pyrrolo[3,4-b]pyridin-6(7H)yl)-5-pyrimidine carboxylic acid | 36.0% yield | ClC=1C=C(CNC2=NC(=NC=C2C(=O)O)N2CC3=NC=CC=C3C2)C=CC1OC | C20H18ClN5O3
